US05674906
Synthesis of (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-Boc-L-prolineamide
(E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile hydrochloride (998 mg, 2.65 mmols), 1,300 mg of a BOP reagent and 605 mg of Boc-L-Pro were dissolved in 50 ml of acetonitrile, and 0.8 ml of triethylamine were added thereto. The mixture was reacted at room temperature for 18 hours and at 50° C. for 20 hours. One-hundred milliliters of water and a small amount of sodium hydrogencarbonate were added thereto, and the resulting mixture was extracted with ethyl acetate. Subsequently, the extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The product was purified using a silica-gel column (eluent, dichloromethane), and then concentrated to produce 1,310 mg (2.44 mmols) of the final product in a yield of 92%.

reactant | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile hydrochloride | 2.65 mmols, 998 mg | Cl.NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC
reactant | BOP reagent | 1,300 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Boc-L-Pro | 605 mg | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | One-hundred milliliters | O | H2O
solvent | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
product | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile Boc-L-prolineamide | 2.44 mmols, 1,310 mg, yield of 92% | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OC(C)(C)C)N1[C@H](C(=O)N)CCC1 | InChI=1S/C19H20N2O4.C10H18N2O3/c1-22-16-6-5-12(8-15(16)21)7-14(11-20)13-9-17(23-2)19(25-4)18(10-13)24-3;1-10(2,3)15-9(14)12-6-4-5-7(12)8(11)13/h5-10H,21H2,1-4H3;7H,4-6H2,1-3H3,(H2,11,13)/b14-7-;/t;7-/m.0/s1
